US08580957B2
A flask was charged with (2S,4R)-1-acetyl-2-methyl-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride (for a preparation see Intermediate 108) (200 mg, 0.475 mmol), sodium tert-butoxide (228 mg, 2.375 mmol), tris(dibenzylideneacetone)dipalladium(0) (435 mg, 0.475 mmol) and 2-(dimethylamino)-2′-(dicyclohexylphosphino)biphenyl (DavePhos) (374 mg, 0.950 mmol) then filled with degassed toluene (6 mL) and the resulting mixture was treated with 2-bromo-6-methylpyridine (0.162 mL, 1.425 mmol) then stirred at 100° C. under nitrogen for 1.5 h then cooled to room temperature and partitioned between water and AcOEt. The two layers were filtered through celite then separated. The aqueous phase was extracted with AcOEt and the combined organic phases were washed with water then brine, dried over MgSO4 and concentrated in vacuo. Purification of the residue by SP4 using a 25 G silica cartridge (gradient:13 to 63% AcOEt in Hexanes) gave (2S,4R)-1-acetyl-2-methyl-N-(6-methyl-2-pyridinyl)-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine (280 mg, 0.589 mmol, 124% yield) contaminated with palladium ligand residues as a brown foam which was used in the next step without further purification.

reactant | (2S,4R)-1-acetyl-2-methyl-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride | Cl.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C#C[Si](C(C)C)(C(C)C)C(C)C)N)C
reactant | sodium tert-butoxide | 2.375 mmol, 228 mg | CC(C)([O-])C.[Na+]
reactant | 2-(dimethylamino)-2′-(dicyclohexylphosphino)biphenyl | 0.950 mmol, 374 mg | CN(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C | C26H36NP
reactant | 2-bromo-6-methylpyridine | 1.425 mmol, 0.162 mL | BrC1=NC(=CC=C1)C | C6H6BrN
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.475 mmol, 435 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | (2S,4R)-1-acetyl-2-methyl-N-(6-methyl-2-pyridinyl)-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine | 0.589 mmol, 280 mg, 124% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C#C[Si](C(C)C)(C(C)C)C(C)C)NC1=NC(=CC=C1)C)C | C29H41N3OSi
